US07285557B2
4-(2,2-diethoxyethoxy)-3-methoxyaniline
To a solution of 2,2-diethoxyethanol (50 mmol, 6.71 g) was added 60% sodium hydride (50 mmol, 2.0 g) and the solution was stirred for 10 minutes at which point a solution of 2-chloro-5-nitroanisole (50 mmol, 9.38 g ) in DMF was added dropwise. The reaction mixture was stirred for 18 h. The DMF was removed by rotary evaporation. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated. The principal component was purified by silica gel column chromatography. The product was subjected to reduction over 18 h using 1 atm hydrogen and 10% Pd on carbon. After the reaction took up a theoretical amount of hydrogen the catalyst was removed by filtration.

reactant | 2,2-diethoxyethanol | 50 mmol, 6.71 g | C(C)OC(CO)OCC | C6H14O3
reactant | sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | 2-chloro-5-nitroanisole | 50 mmol, 9.38 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(2,2-diethoxyethoxy)-3-methoxyaniline | C(C)OC(COC1=C(C=C(N)C=C1)OC)OCC | C13H21NO4
